US07135467B2
N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-1-methyl-2-[4-(methylsulfonyl)-1-piperazinyl]-6-oxo-4-pyrimidinecarboxamide
N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-1-methyl-2-[4-(methylsulfonyl)-1-piperazinyl]-6-oxo-4-pyrimidinecarboxamide was synthesized from 5-hydroxy-2-(4-methanesulfonyl-piperazin-1-yl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester and 4-fluorobenzylamine as described in example to yield the title compound as a white solid 1H NMR (300 MHz, MeOD) δ: 8.88 (1H, t, J=5.9 Hz), 7.37 (2H, dd, J=8.6, 5.3 Hz), 7.05 (2H, t, J=8.8 Hz), 4.55 (2H, d, J=6.2 Hz), 3.55 (3H, s), 3.39–3.36 (4H, m), 3.26–3.23 (4H, m), 2.88 (3H, s). HRMS (M+H) calcd for C18H23FN5O5S: 440.14040. found: 440.1386.

reactant | 5-hydroxy-2-(4-methanesulfonyl-piperazin-1-yl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)N1CCN(CC1)S(=O)(=O)C | C13H20N4O6S
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-1-methyl-2-[4-(methylsulfonyl)-1-piperazinyl]-6-oxo-4-pyrimidinecarboxamide | FC1=CC=C(C=C1)CNC(=O)C=1N=C(N(C(C1O)=O)C)N1CCN(CC1)S(=O)(=O)C | C18H22FN5O5S
